US09359375B2
A mixture of (R)-tert-butyl 1-(3-bromo-4-cyanophenylamino)-3-methoxypropan-2-ylcarbamate (150 mg, 0.39 mmol), 5-amino-3-methylisothiazole hydrochloride (76 mg, 0.51 mmol), BINAP (25 mg, 0.04 mmol), Pd(OAc)2 (18 mg, 0.08 mmol) and K2CO3 (188 mg, 1.37 mmol) p-dioxane (3 mL) was degassed with Ar, then was heated at 120° C. for 15 h. the mixture was filtered, filter cake was washed with EtOAc, and the filtrated was concentrated in vacuo to give (R)-tert-butyl 1-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-methoxypropan-2-ylcarbamate as crude oil.

reactant | (R)-tert-butyl 1-(3-bromo-4-cyanophenylamino)-3-methoxypropan-2-ylcarbamate | 0.39 mmol, 150 mg | BrC=1C=C(C=CC1C#N)NC[C@H](COC)NC(OC(C)(C)C)=O | C16H22BrN3O3
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.51 mmol, 76 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.04 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 1.37 mmol, 3 mL, 188 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.08 mmol, 18 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-tert-butyl 1-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-methoxypropan-2-ylcarbamate | C(#N)C1=C(C=C(C=C1)NC[C@H](COC)NC(OC(C)(C)C)=O)NC1=CC(=NS1)C | C20H27N5O3S
